US04752645
(C) α-Methyl-[2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester
A solution of α-methyl-[2-(2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (2.47 g, 6.38 mmol) in 24 ml of trifluoroacetic acid was catalytically hydrogenated (42 psi, 0.25 g of 10% palladium on charcoal) for 11/2 hours. The reaction suspension was filtered through a pad of Celite and concentrated in vacuo to yield a viscous brown oil. The crude product was dissolved in ethyl acetate and washed several times with saturated aqueous potassium carbonate solution. Evaporation of the ethyl acetate layer in vacuo yielded 2.27 g of a light tan solid. Recrystallization from methanol (3 crops) yielded 1.82 g of an off-white solid, melting point 165°-167° C.

reactant | α-methyl-[2-(2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 6.38 mmol, 2.47 g | CC(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C21H23NO7
solvent | trifluoroacetic acid | 24 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-Methyl-[2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 2.27 g | CC(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1)N)C1=CC=C(C=C1)OC | C21H25NO5
